US04473586
6-amino-1,2,3,4-tetrahydro-1-naphthalenone is reacted with trimethylsilylcyanide followed by lithium aluminum hydride to obtain 1-aminomethyl-1-hydroxy-6-amino-1,2,3,4-tetrahydronaphthalene. This diamine is di-acetylated with acetic anhydride, chlorinated with chlorine and acetic acid, and then heated to dehydrate the alcohol. The resulting di-chloro-di-acetamide is hydrolyzed in HCl to obtain 1-aminomethyl-6-amino-5,7-dichloro-3,4-dihydronaphthalene HCl.

reactant | 6-amino-1,2,3,4-tetrahydro-1-naphthalenone | NC=1C=C2CCCC(C2=CC1)=O | C10H11NO
reactant | trimethylsilylcyanide | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-aminomethyl-1-hydroxy-6-amino-1,2,3,4-tetrahydronaphthalene | NCC1(CCCC2=CC(=CC=C12)N)O | C11H16N2O
